2108-06-17 19:47:00 Physician Attending Progress Note
Chief Complaint: Septic shock, GNR bacteremia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Chart reviewed and patient examined with house officer team.  I was
   present and involved in delivering key aspects of her assessment, plan
   and care.
   77F h/o Waldenstrom
s macroglobulinemia recently dx and recent TAH Lt
   hip recent admission at [**Hospital3 118**] for WBC, fever, only grew
   out <20k E. Coli, was on Zosyn briefly, last night at home developed Lt
   flank pain,  brought to [**Hospital1 54**] ED for eval. found SBP 70s, F105, P122.
   In ED: fluid resuscitation 5.5L,  dopa, Levo started, Zosyn and vanc
   started.  Transferred to ICU for hemodyn monitoring.
   24 Hour Events:
   Pressors adjusted to Levo/Vaso due to excessive tachycardia with dopa &
   levo.
   Continued fluid aggressive fluid resuscitation.
   Has been been oliguric ~200cc in 24hrs.
   History obtained from [**Hospital 85**] Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Infusions:
   Norepinephrine - 0.5 mcg/Kg/min
   Vasopressin - 2.4 units/hour
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, Fever
   Ear, Nose, Throat: Dry mouth
   Cardiovascular: Tachycardia, hypotension
   Nutritional Support: NPO
   Respiratory: Tachypnea
   Genitourinary: anuria
   Heme / Lymph: Anemia, Coagulopathy
   Psychiatric / Sleep: Daytime somnolence
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2108-6-17**] 07:40 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.7
C (98
   HR: 115 (94 - 129) bpm
   BP: 109/50(68) {90/46(61) - 148/124(130)} mmHg
   RR: 24 (14 - 24) insp/min
   SpO2: 97%
   CVP: 12 (7 - 350)mmHg
   Total In:
                                                                  8,603 mL
   PO:
   TF:
   IVF:
                                                                  3,103 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    250 mL
   Urine:
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  8,353 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: 7.23/34/110/15/-12
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Hyperdynamic), (S1: Normal), (S2: Normal), No(t)
   S3
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Crackles : bases b/l)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis
   Skin:  Cool, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.3 g/dL
   356 K/uL
   153 mg/dL
   1.5 mg/dL
   15 mEq/L
   2.7 mEq/L
   23 mg/dL
   117 mEq/L
   143 mEq/L
   31.9 %
   48.6 K/uL
        [image002.jpg]
                             [**2108-6-17**]  05:00 PM
                             [**2108-6-17**]  06:16 PM
   WBC
   48.6
   Hct
   31.9
   Plt
   356
   Cr
   1.5
   TCO2
   15
   Glucose
   153
   Other labs: PT / PTT / INR:17.4/39.4/1.6, CK / CKMB / Troponin-T:34//,
   Lactic Acid:1.6 mmol/L, Ca++:6.1 mg/dL, Mg++:1.0 mg/dL, PO4:2.1 mg/dL
   Microbiology: [**3-9**] BCx GNR from today
   Assessment and Plan
   77F h/o recently dx Waldenstrom
s macroglobulinemia and recent TAH Lt
   hip recent admission at [**Hospital3 118**] for WBC, fever, came to ED
   w/ c/o  sudden onset Lt flank pain and noted to be febrile, hypotensive
   and tachycardic.  Fluid resuscitated, pressors and abx started,
   transferred to ICU.  Adjust pressors, continued fluid resuscitation.
   BCx [**3-9**] GNR.
   Septic shock / high grade GNR bacteremia - covered w/ Meropenem given
   E.Coli sensitivity pattern from [**Hospital1 **] UCx.   Continued aggressive
   fluid resuscitation per MUST protocol.   Presumed source pyelonephritis
   though UA bland except for hematuria.  Close hemodynamic monitoring.
   Considering Xigris - though need to discuss renal hemorrhage as
   potential contraindication with renal.   Signed out to evening
   intensivist who will make final call re: Xigris.
   Resp
 doing well at present though has rales in bases.  Will need
   continued close monitoring given significant fluids being given for
   resuscitation.
   ARF 0.8->1.5 and oliguric approaching anuric, urine sediment for exam.
   Continue to fluid resuscitate in case pre-renal component.  Some
   evidence of papillary necrosis on U/S perhaps related to analgesics.
   Trop 0.26 on admission CK/MB flat.  Lactate trending down w/ fluid
   resuscitation.
   Coagulopathy - mild elvation of coags.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2108-6-17**] 12:01 PM
   18 Gauge - [**2108-6-17**] 12:02 PM
   20 Gauge - [**2108-6-17**] 12:03 PM
   Arterial Line - [**2108-6-17**] 03:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :
   Total time spent: 70 minutes
   Patient is critically ill

2108-06-18 08:43:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   -Pressors continued
   -Levo/Neo continued and Vasopressin added with D/C of Neo
   -IVF given as needed
   -BC return positive for E-Coli in all 4 bottles
   -IR consulted for possible drainage given suggestion of hydro and
   possible undrained pus collection and all consultants spoken to
   -Lactate with mild decrease
   -DIC suggested with increasing INR
   24 Hour Events:
 MULTI LUMEN - START [**2108-6-17**] 12:01 PM
 ARTERIAL LINE - START [**2108-6-17**] 03:30 PM
 ULTRASOUND - At [**2108-6-17**] 04:21 PM
   renal u/s
 STOOL CULTURE - At [**2108-6-17**] 10:10 PM
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2108-6-17**] 10:15 PM
   Infusions:
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.34 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2108-6-17**] 10:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Ear, Nose, Throat: Dry mouth
   Cardiovascular: Tachycardia
   Gastrointestinal: Abdominal pain
   Genitourinary: Foley, Oliguria
   Flowsheet Data as of  [**2108-6-18**] 08:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36
C (96.8
   HR: 106 (94 - 129) bpm
   BP: 133/64(88) {82/43(56) - 148/124(130)} mmHg
   RR: 19 (14 - 32) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 64.5 kg (admission): 63 kg
   Height: 61 Inch
   CVP: 15 (7 - 350)mmHg
   Total In:
                                                                  9,895 mL
                                                                    448 mL
   PO:
   TF:
   IVF:
                                                                  4,395 mL
                                                                    448 mL
   Blood products:
   Total out:
                                                                    290 mL
                                                                     80 mL
   Urine:
                                                                    290 mL
                                                                     80 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  9,605 mL
                                                                    368 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: 7.27/26/86/13/-13  (3 liters/min)
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Distant), CVP=[**10-17**]
clear A-wave, no
   inspiratory fall.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Crackles : Bilateral crackles in lower and mid lung
   fields
heard throughout.  No wheezes
   Abdominal: Non-tender, No(t) Tender: no CVA tenderness
   Skin:  Not assessed, No(t) Rash:
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Extremeties
patient with cool extremities bilaterally, indeed no rashes
   appreciated
   Labs / Radiology
   9.0 g/dL
   218 K/uL
   119 mg/dL
   1.8 mg/dL
   13 mEq/L
   4.5 mEq/L
   29 mg/dL
   115 mEq/L
   140 mEq/L
   28.0 %
   63.2 K/uL
        [image002.jpg] AG=12
                             [**2108-6-17**]  05:00 PM
                             [**2108-6-17**]  06:16 PM
                             [**2108-6-17**]  09:54 PM
                             [**2108-6-17**]  10:12 PM
                             [**2108-6-18**]  05:30 AM
                             [**2108-6-18**]  07:48 AM
   WBC
   48.6
   56.5
   63.2
   (24% bands)
   Hct
   31.9
   28.6
   28.0
   Plt
   356
   257
   218
   Cr
   1.5
   1.5
   1.8
   TropT
   0.17
   TCO2
   15
   13
   12
   Glucose
   153
   159
   119
   Other labs: PT / PTT / INR:19.2/43.4/1.8, CK / CKMB /
   Troponin-T:34/3/0.17, ALT / AST:31/33, Alk Phos / T Bili:89/0.3,
   Differential-Neuts:74.0 %, Band:24.0 %, Lymph:0.0 %, Mono:0.0 %,
   Eos:0.0 %, Lactic Acid:1.9 mmol/L, Ca++:7.4 mg/dL, Mg++:2.1 mg/dL,
   PO4:2.8 mg/dL
   Fluid analysis / Other labs: Baseline Cr=0.8
   HCO3=12 at admission
   Imaging: Renal U/S--moderate hydro left kidney.  Echogenic material
   bilaterally--pus vs. blood vs. non-calcified stones.  CXR [**6-17**]
Right IJ
   in good position, no PTX, mild bilateral hilar edema without signficant
   effusions
   Microbiology: [**3-9**] GNR's in blood cultures
   ECG: nl intervals, no ST-T changes
   Assessment and Plan
   77 yo female with history of Waldenstrom's Macroglobulinemia admit with
   abdominal pain and admit with renal calculi and concern for
   pyelonephritis based on CT scan at MWH.  She was transferred here with
   Sepsis (21% bands) and likely renal source.  In this setting she did
   have recent history of E. Coli (S-gent/tobra/bactrim) urinary tract
   infection with hospital course c/b hematuria with transfusion
   required.  Of note pt. without prolonged antibiotic course (3 days
   Zosyn given).  At that hospital course papillary necrosis considered
   likely source.
   Now patient admit with Sepsis--initial Rx with IVF showing some
   improvement in hemodynamics but only transiently and sepsis catheter
   and pressors required.  She has had continued trend of increasing WBC
   count with persistent bandemia.
   1)Sepsis--The source is clearly likely from her renal collecting
   system.  The reason for such significant hematuria and persistent
   bandemia and refractory sepsis may well be persisent obstruction
   secondary to blood, or nephrolithiasis with partial obstructions with
   stones.  In the setting of recent antibiotics there may well be
   resistant bacteria present.  As far as undrained source there is clear
   concern based on ultrasound.  Overall she has some volume resuscitation
   completed and CVP is considered
optimal
 but with inspiratory fall
   there is a suggestion of some possible need for increased volume
   support.
   -Levo/Vasopressin
to continue with titration to adequate perfusion
   -Meropenem for antibiotics given reasonable coverage
   -Avoid aminoglycosides given worsening renal failure but do need E.
   Coli sensitivies as soon as possible.
   -IVF bolus today for decrease in MAP
which will be driven by MAP
   changes and CVP goal of 12
   -LR as fluid of choice
   -Will check CvO2 to give measure of delivery as we have some concern
   for cardiac compromise with exam suggesting cool extremities.
   -Will check [**Last Name (un) 45**] stim for eval of possible adrenal insufficiency
   -Will add Flagyl for possible C. Diff
   -Will discuss with others but will repeat renal ultrasound and evaluate
   for worsening of evidence of obstruction.
   -Additional issue is possible abscess for drainage which will have to
   be reviewed with radiology directly.
   -Will review primary data from imaging as well.
   2)Acute Renal Failure
This may well be ATN in the setting of sepsis and
   hypotension.  We would raise the issue of possible obstruction and
   there may well be a pre-renal picture as well.  To define primary
   contributors we will
   -Eval with repeat ultrasound to look for worsening obstruction
   -Check renal lytes for evidence of inadequate perfusion
   -Need a direct evaluation of urine for evidence of ATN
   -Will need to maintain adequate perfusion and drainage in the settin of
   ongoing renal impairment.
   2.5)Non-gap metabolic acidosis
will avoid NaCl where possible and given
   preserved hepatic function will utilize LR as possible.
   3)Coagulopathy-[**Month (only) 60**] be secondary to sepsis
replace factors with FFP if
   further increase seen and/or bleeding in renal system suggested.
   4)Anemia
no acute drop, may have been in the setting of previous blood
   loss, chronic iron deficiency anemia and acute sepsis.
   5)Myocardial Ischemia
patient has realy R-wave progression and inferior
   Q-waves which are non-significant by voltage criteria but raises
   concern in the setting of evidence of inadequate perfusion suggested by
   peripheral exam will
   F/U ECHO
   F/U ECG
   gg
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2108-6-17**] 12:01 PM
   20 Gauge - [**2108-6-17**] 12:03 PM
   Arterial Line - [**2108-6-17**] 03:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 60

2108-06-19 07:15:00 Physician Resident Progress Note
Chief Complaint: Septic shock
   24 Hour Events:
   D/C
d pressors
   TTE - Mildly depressed LV ejection fraction (EF 45-50%). Moderate
   mitral regurgitation and mild aortic regurgitation.
   A-line replaced
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2108-6-18**] 08:00 PM
   Metronidazole - [**2108-6-19**] 12:09 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history: n/a
   Review of systems is unchanged from admission except as noted below
   Review of systems: Denies fever, chills, CP, SOB, N/V, abd or flank
   pain, dysuria
   Flowsheet Data as of  [**2108-6-19**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 35.7
C (96.3
   HR: 100 (90 - 108) bpm
   BP: 119/60(83) {61/38(47) - 136/70(302)} mmHg
   RR: 12 (12 - 24) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 64.5 kg (admission): 63 kg
   Height: 61 Inch
    CVP: 17 (8 - 20)mmHg
   Total In:
                                                                  1,643 mL
                                                                    178 mL
   PO:
   TF:
   IVF:
                                                                  1,643 mL
                                                                    178 mL
   Blood products:
   Total out:
                                                                    284 mL
                                                                    145 mL
   Urine:
                                                                    284 mL
                                                                    145 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,359 mL
                                                                     33 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   Physical Examination
   GEN: Somnolent, but arousable, A&Ox3
   HEENT: PERRL, OP clear with dry mucosa
   NECK: JVD to angle of jaw
   CV: reg tachy, nl S1S2, no m/r/g
   PULM: crackles [**12-7**] way up bilat, no wheezes
   ABD: soft, NTND +BS, no rebound, guarding, CVA tenderness
   EXT: cool, dry +PP, no LE edema
   Labs / Radiology
   144 K/uL
   8.5 g/dL
   118 mg/dL
   2.2 mg/dL
   10 mEq/L
   4.8 mEq/L
   35 mg/dL
   113 mEq/L
   139 mEq/L
   26.6 %
   75.3 K/uL
        [image002.jpg]
                             [**2108-6-17**]  05:00 PM
                             [**2108-6-17**]  06:16 PM
                             [**2108-6-17**]  09:54 PM
                             [**2108-6-17**]  10:12 PM
                             [**2108-6-18**]  05:30 AM
                             [**2108-6-18**]  07:48 AM
                             [**2108-6-18**]  03:15 PM
                             [**2108-6-19**]  03:46 AM
   WBC
   48.6
   56.5
   63.2
   55.5
   75.3
   Hct
   31.9
   28.6
   28.0
   26.6
   26.6
   Plt
   356
   257
   218
   155
   144
   Cr
   1.5
   1.5
   1.8
   2.0
   2.2
   TropT
   0.17
   TCO2
   15
   13
   12
   Glucose
   153
   159
   119
   62
   118
   Other labs: PT / PTT / INR:18.2/39.7/1.7, CK / CKMB /
   Troponin-T:34/3/0.17, ALT / AST:31/33, Alk Phos / T Bili:89/0.3,
   Differential-Neuts:96.0 %, Band:3.0 %, Lymph:0.0 %, Mono:1.0 %, Eos:0.0
   %, D-dimer:6577 ng/mL, Fibrinogen:668 mg/dL, Lactic Acid:1.9 mmol/L,
   Albumin:2.1 g/dL, Ca++:7.1 mg/dL, Mg++:2.1 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   77 yo F with PMH Waldenstrom's macroglobulinemia, recent
   partially-treated UTI a/w with septic shock in the setting of E. Coli
   bacteremia and left hydronephrosis, with worsening leukocytosis despite
   overall clinical improvement.
   .
   #Septic shock
 E.Coli bacteremia, presumed urinary source because
   +U/A.  Clinically improved with better peripheral perfusion on exam, HD
   stable off pressors with improved urine output. OSH report of ESBL from
   urine culture, sensitive to meropenem.
   -Maintain MAP > 65 with IVF
   -LR boluses to maintain CVP 8-10
   -trend mixed venous O2, lactate
   -cont. meropenen (day 3)
   -adequate response to [**Last Name (un) 45**]-stim test; no indication for addition of
   stress-dose steroids
   .
   #Leukocytosis
 Cont. to trend upward despite clinical improvement; c/f
   myeloid dyscrasia, although normal WBC (8.2) in [**4-12**] and only slightly
   elevated on admission (13.5); 99% PMN
s without bands or atypical
   cells; does have +IgM spike
   -check smear, serum viscosity
   -heme c/s to look at smear, offer suggestions for further w/u, ?
   relationship to [**Male First Name (un) **]
   .
   #ARF
 Cr up slightly 2.0
2.2; originally suspected pre-renal and/or
   ATN in the setting of sepsis/hypotension but FENa indeterminate and no
   mention of muddy brown casts and worsening Cr in the setting of despite
   volume repletion speaks against pre-renal physiology; unclear if
   contribution from bilateral post-obstructive uropathy [**1-7**] foci of
   bleeding and/or infection seen on U/S, c/f papillary necrosis,
   bilateral pyelo; hematuria c/w papillary necrosis vs. malignancy vs.
   GN, proteinuria c/w nephrotic syndrome; rare eos in urine c/w AIN
   perhaps [**1-7**] quinolone given for UTI at OSH; hematuriamay be an element
   of analgesic nephropathy as pt was taking pain meds for her hip;
   unclear if relationship to [**Name (NI) **]
   -MR urogram w/o contrast to evaluate etiology of calyceal process and
   left-sided hydro
   -UPEP pending
   -appreciate renal recs
   -renally dose meds, avoid nephrotoxins if possible
   .
   #Coagulopathy
 no s/sx bleeding/clotting; INR stable at 1.7 today but
   plts cont. to trend down; likely in the setting of sepsis as no h/o
   anticoagulation but question whether related to evolving dyscrasia
   -elevated not c/w acute DIC; elevated D-dimer non-specific
   -reverse with vitamin K if procedure required
   .
   #Anemia
 trending down in the setting of volume repletion; no s/sx
   acute bleeding
   -T&C, x-fuse for Hct < 21%
   .
   #C. diff
 infrequent loose BM
s, abd exam benign; first toxin assay
   neg
   -despite low suspicion, in favor of cont. PO flagyl until repeat toxin
   assay neg in light of marked leukocytosis and tenuous clinical status
   .
   #Demand myocardial ischemia
 asymptomatic trop leak, trended downward;
   likely incr. myocardial demand in the setting of septic shock; no EKG
   changes to suggest ACS (precordial R wave so less of a concern for post
   AMI)
   -completed r/o MI
   -repeat EKG if concern for ACS, chest pain
   .
   #F/E/N
   -D5W+150 mEq bicarb @ 125 cc/hr
   -follow lytes [**Hospital1 **], replete PRN with caution given diminished renal fxn
   -NPO for now in case intervention warranted
   .
   #PPx
 venodynes, PPI
   .
   #ACCESS  - R IJ, PIV, L rad A-line; consider d/c
ing a-line since off
   pressors & d/c
ing CVC if remains HD stable
   .
   #CODE
 FULL
   .
   #CONTACT
 granddaughter [**Name (NI) 2685**] (HCP) [**Telephone/Fax (1) 3601**]
   ICU Care
   Nutrition: NPO pending possile urological intervention
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2108-6-17**] 12:01 PM
   20 Gauge - [**2108-6-17**] 12:03 PM
   Arterial Line - [**2108-6-18**] 08:10 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition:ICU

2108-06-19 09:55:00 Physician Attending Progress Note
Chief Complaint: Sepsis--Urinary Source
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2108-6-18**] 10:00 AM
 ARTERIAL LINE - STOP [**2108-6-18**] 08:00 PM
 ARTERIAL LINE - START [**2108-6-18**] 08:10 PM
   -Pressors weaned to off over yesterday
   -ECHO with mildly depressed EF
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2108-6-18**] 08:00 PM
   Metronidazole - [**2108-6-19**] 07:44 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2108-6-19**] 07:44 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever
   Cardiovascular: Tachycardia, Intermittent
   Signs or concerns for abuse : No
   Flowsheet Data as of  [**2108-6-19**] 09:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 35.6
C (96
   HR: 92 (90 - 108) bpm
   BP: 110/56(77) {61/38(47) - 136/70(302)} mmHg
   RR: 12 (12 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 64.5 kg (admission): 63 kg
   Height: 61 Inch
   CVP: 16 (8 - 357)mmHg
   Total In:
                                                                  1,643 mL
                                                                    318 mL
   PO:
   TF:
   IVF:
                                                                  1,643 mL
                                                                    318 mL
   Blood products:
   Total out:
                                                                    284 mL
                                                                    220 mL
   Urine:
                                                                    284 mL
                                                                    220 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,359 mL
                                                                     98 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///10/
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : )
   Abdominal: Non-tender
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.5 g/dL
   144 K/uL
   118 mg/dL
   2.2 mg/dL
   10 mEq/L
   4.8 mEq/L
   35 mg/dL
   113 mEq/L
   139 mEq/L
   26.6 %
   75.3 K/uL
        [image002.jpg]
                             [**2108-6-17**]  05:00 PM
                             [**2108-6-17**]  06:16 PM
                             [**2108-6-17**]  09:54 PM
                             [**2108-6-17**]  10:12 PM
                             [**2108-6-18**]  05:30 AM
                             [**2108-6-18**]  07:48 AM
                             [**2108-6-18**]  03:15 PM
                             [**2108-6-19**]  03:46 AM
   WBC
   48.6
   56.5
   63.2
   55.5
   75.3
   Hct
   31.9
   28.6
   28.0
   26.6
   26.6
   Plt
   356
   257
   218
   155
   144
   Cr
   1.5
   1.5
   1.8
   2.0
   2.2
   TropT
   0.17
   TCO2
   15
   13
   12
   Glucose
   153
   159
   119
   62
   118
   Other labs: PT / PTT / INR:18.2/39.7/1.7, CK / CKMB /
   Troponin-T:34/3/0.17, ALT / AST:31/33, Alk Phos / T Bili:89/0.3,
   Differential-Neuts:96.0 %, Band:3.0 %, Lymph:0.0 %, Mono:1.0 %, Eos:0.0
   %, D-dimer:6577 ng/mL, Fibrinogen:668 mg/dL, Lactic Acid:1.9 mmol/L,
   Albumin:2.1 g/dL, Ca++:7.1 mg/dL, Mg++:2.1 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   77 yo female admit with sepsis following incomplete response to
   treatment for urinary tract infection in past with course complicated
   by signficant hematuria.  The issue was raised as to possible abscess
   which has been fully considered with Urology and Renal assistance and
   given clinical improvement this seems less likely in the setting of
   antibiotic therapy but further imaging when clinically appropriate
   would be suggested.  The specific source of her papillary necrosis
   remains unclear and infiltrative diseases of the kidney are also under
   consideration.
   1)Sepsis
Improved with antibiotic Rx
   -Await GNR speciation
   -CVP goal [**7-15**] and will wean as possible
   -Meropenem to continue
   -[**Last Name (un) **] stim reassuring
   -Will follow up with culture results
   2)Leukocytosis-
   -She retains a significantly elevated WBC count.  This is in the
   setting of 3% bands.  This is possibly ongoing response to incompletely
   treated infection with abscess and/or C-Diff considered most likely.
   In addition, this may well be a primary source from myeloid cell line
   triggered by infectious insult but this was not previously defined.
   -MRI to eval better for focal collection
   -TWBC scan would be reasonable to consider if unable to tolerate MRI
   scan
   -Continue with Flagyl for C-Diff treatment
   -Will need to review smear with Heme to consider if cell differential
   represents accurate counts.
   2)Acute Renal Failure-
   -Has had some continued worsening of creatinine and remains oliguric at
   this time
   -Will maintain adequate prefusion and hope for, at least, ATN component
   to resolve although this is a mild contribution to the rnal failure.
   -Will minimize contrast
   3)Hematuria
minimal at this time
will maintain foley support
   4)ICU
Full Code, start PO feeds
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2108-6-17**] 12:01 PM
   20 Gauge - [**2108-6-17**] 12:03 PM
   Arterial Line - [**2108-6-18**] 08:10 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2108-06-20 07:45:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Pt was increasingly somnolent and lethargic, but arousable with
   increasing O2 requirement from RA to 2L NC; ABG checked - 7.39/28/77/18
   MR urogram w/o contrast revealed:
   1. Limited study, but no evidence of hydronephrosis or renal
   obstruction.
   2. Evidence of hemosiderosis with secondary iron deposition in the
   liver,
   spleen, and bone marrow.
   3. Extensive anasarca.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   History obtained from [**Hospital 85**] Medical recordsNo Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2108-6-18**] 08:00 PM
   Metronidazole - [**2108-6-20**] 01:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2108-6-20**] 01:30 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2108-6-19**] 07:44 AM
   Lorazepam (Ativan) - [**2108-6-19**] 11:00 AM
   Morphine Sulfate - [**2108-6-19**] 06:59 PM
   Other medications:
   Changes to medical and family history:
   n/a
   Review of systems is unchanged from admission except as noted below
   Review of systems: Pt thirsty, but denies fever, chills, SOB, CP, abd
   or flank pain, N/V/D
   Flowsheet Data as of  [**2108-6-20**] 07:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 95 (92 - 105) bpm
   BP: 127/65(88) {103/52(71) - 141/71(98)} mmHg
   RR: 12 (11 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 64.5 kg (admission): 63 kg
   Height: 61 Inch
    CVP: 10 (10 - 17)mmHg
   Total In:
                                                                  2,834 mL
                                                                    970 mL
   PO:
   TF:
   IVF:
                                                                  2,834 mL
                                                                    970 mL
   Blood products:
   Total out:
                                                                    742 mL
                                                                    370 mL
   Urine:
                                                                    742 mL
                                                                    370 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,092 mL
                                                                    600 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula 2L
   SpO2: 100%
   ABG: 7.39/28/77/18/-6 on 2L NC
   Physical Examination
   GEN: Somnolent, but arousable, follows commands; oriented to person,
   place, month but not day or year
   HEENT: PERRL, OP clear with dry mucosa
   NECK: JVD 10 cmH20
   CV: reg tachy, nl S1S2, no m/r/g
   PULM: crackles [**12-7**] way up bilat, no wheezes
   ABD: soft, ND +BS diffuse tenderness to deep palpation, no rebound,
   guarding
   EXT: warm, dry +PP, no LE edema
   Labs / Radiology
   108 K/uL
   8.4 g/dL
   84 mg/dL
   1.7 mg/dL
   18 mEq/L
   3.7 mEq/L
   33 mg/dL
   113 mEq/L
   141 mEq/L
   25.4 %
   50.9 K/uL
        [image002.jpg]
                             [**2108-6-17**]  06:16 PM
                             [**2108-6-17**]  09:54 PM
                             [**2108-6-17**]  10:12 PM
                             [**2108-6-18**]  05:30 AM
                             [**2108-6-18**]  07:48 AM
                             [**2108-6-18**]  03:15 PM
                             [**2108-6-19**]  03:46 AM
                             [**2108-6-19**]  04:37 PM
                             [**2108-6-20**]  12:51 AM
                             [**2108-6-20**]  04:06 AM
   WBC
   56.5
   63.2
   55.5
   75.3
   63.4
   50.9
   Hct
   28.6
   28.0
   26.6
   26.6
   24.9
   25.4
   Plt
   257
   218
   155
   144
   126
   108
   Cr
   1.5
   1.8
   2.0
   2.2
   2.0
   1.7
   TropT
   0.06
   TCO2
   15
   13
   12
   18
   Glucose
   159
   119
   62
   118
   72
   84
   Other labs: PT / PTT / INR:16.7/33.4/1.5, CK / CKMB /
   Troponin-T:18/3/0.06, ALT / AST:31/33, Alk Phos / T Bili:89/0.3,
   Differential-Neuts:99.0 %, Band:1.0 %, Lymph:0.0 %, Mono:0.0 %, Eos:0.0
   %, D-dimer:6577 ng/mL, Fibrinogen:691 mg/dL, Lactic Acid:1.9 mmol/L,
   Albumin:2.1 g/dL, LDH:384 IU/L, Ca++:6.9 mg/dL, Mg++:1.9 mg/dL, PO4:2.6
   mg/dL
   Assessment and Plan
   77 y/o F w/ Waldenstrom's macroglobulinemia, recent partially-treated
   UTI a/w with septic shock in the setting of E. Coli bacteremia,
   overally clinically improved but with persistent delirium.
   .
   #Septic shock
 Clinically no longer in shock, HD stable off pressors
   with improved UOP, renal function; [**1-7**] E.Coli bacteremia, presumed
   urinary source b/c +U/A.
   -meropenem switched to zosyn based on initial sensitivity data (day
   [**3-19**] of ABX); meropenem susceptibility added on later
   -may d/c A-line and central line as MAP and CVP have remained at goal
   -adequate response to [**Last Name (un) 45**]-stim test; no indication for addition of
   stress-dose steroids
   .
   #Thrombocytopenia
 No S/Sx bleeding; plts have continued to trend
   downward since admission; suspect medication-induced (PPI vs. ABX); did
   receive SQH initially, is in the range for non-Ab mediated HIT; sepsis
   likely playing a role; unlikely in acute DIC as fibrinogen high and
   other markers of coagulopathy stable
   -recheck platelets in PM
   -consider changing zosyn back to [**Last Name (un) 430**] if plts cont. to fall (c/f
   PCN-induced thrombocytopenia)
   -d/c PPI
   -venodynes for DVT PPx
   .
   #Delirium - More somnolent, lethargic, but non-focal exam without
   meningismus; suspect toxic encephalopathy in the setting of infection
   and benzos given for sedation for MRI; hypoxia on ABG c/w volume
   overload/bilat pleural effusions on CXR, cannot r/o underlying PNA but
   no fever, cough
   -NCCT head this AM but low suspicion for bleed/CVA, incr. ICP; defer LP
   unless mental status worsens or focal findings on PE
   -broaden ABX to cover MRSA if has incr. O2 requirement, purulent
   sputum; sputum GS/Cx if possible
   -consider gentle diuresis to improve resp. status
   .
   #Leukocytosis
 Trending down, likely leukemoid rxn in the setting of
   sepsis as latest diff was 99% PMN's, no atypicals; serum viscosity WNL
   -heme thought smear was c/w leukemoid rxn
   -cont. to trend, no further w/u (i.e. marrow Bx) at this time
   .
   #ARF
 Cr improved 2.0 --> 1.7, UOP gradually improving; suspect
   resolving ATN in the setting of sepsis/hypotension although FENa
   indeterminate and no mention of muddy brown casts; hematuria initially
   c/f papillary necrosis vs. malignancy vs. GN, proteinuria c/w nephrotic
   syndrome; rare eos in urine c/w AIN perhaps [**1-7**] quinolone given for UTI
   at OSH; unclear relationship to [**Name (NI) **]
   -cont. maintenance IVF + bicarb
   -MR did not reveal hydronephrosis, renal abscess, or perinephric
   collection
   -UPEP pending
   -appreciate renal recs
   -renally dose meds, avoid nephrotoxins
   .
   #Non-gap met acidosis - Concomitant resp alkalosis based on ABG;
   suspect renal HCO3 losses (NH4 excretion vs. failure of secretion) > GI
   losses as not having freq. diarrhea, as well as some element of
   dilution after aggressive volume repletion and perhaps post-hypocapnic
   effect; consimproved with bicarb replacement in maintenance IVF
   -check urine AG, ph, FeHCO3 to characterize RTA: K has been low c/w
   type II RTA and some causes type I
   -cont. D5+150 mEq HCO3 @ maintenance
   .
   #Anemia
 stable, trended down in the setting of volume repletion; no
   s/sx acute bleeding
   -T&C, x-fuse for Hct < 21%
   .
   #C. diff
 infrequent loose BM
s, abd exam benign; toxin assay neg x 2
   -d/c flagyl
   .
   #F/E/N
   -if mental status improves, start PO diet; otherwise consider starting
   NG TF
   -volume goal: even to -500 cc/day
   -D5W+150 mEq bicarb @ 125 cc/hr
   -follow lytes [**Hospital1 **], replete PRN with caution given diminished renal fxn
   .
   #PPx
 venodynes, does not need GI PPx clinically improved and will
   have nutrition today
   .
   #ACCESS  - R IJ, PIV, L rad A-line; consider d/c
ing a-line/central
   line since HD stable off pressors
   .
   #CODE
 FULL
   .
   #CONTACT
 granddaughter [**Name (NI) 2685**] (HCP) [**Telephone/Fax (1) 3601**]
   ICU Care
   Nutrition: start TF (probalance goal 45/hr) or PO diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2108-6-17**] 12:01 PM
   20 Gauge - [**2108-6-17**] 12:03 PM
   Arterial Line - [**2108-6-18**] 08:10 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition:ICU

2108-06-20 08:54:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Patient with worsening mental status overnight with decreased sensorium
   She had some persistent and worsening acidemia
 STOOL CULTURE - At [**2108-6-19**] 08:48 AM
 MAGNETIC RESONANCE IMAGING - At [**2108-6-19**] 11:04 AM--Right sided
   renal cyst, no significant hydro on left, no focal collections
   suspicious for abscess on limited study (no contrast and significant
   edema)
 BLOOD CULTURED - At [**2108-6-19**] 04:49 PM
 BLOOD CULTURED - At [**2108-6-19**] 04:49 PM
   GNR's=E. Coli and S-Zosyn
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2108-6-18**] 08:00 PM
   Metronidazole - [**2108-6-20**] 01:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2108-6-20**] 01:30 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2108-6-19**] 11:00 AM
   Morphine Sulfate - [**2108-6-19**] 06:59 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-6-20**] 08:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 95 (92 - 105) bpm
   BP: 127/65(88) {103/52(71) - 141/71(98)} mmHg
   RR: 12 (11 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 64.5 kg (admission): 63 kg
   Height: 61 Inch
   CVP: 10 (10 - 17)mmHg
   Total In:
                                                                  2,834 mL
                                                                  1,060 mL
   PO:
   TF:
   IVF:
                                                                  2,834 mL
                                                                  1,060 mL
   Blood products:
   Total out:
                                                                    742 mL
                                                                    370 mL
   Urine:
                                                                    742 mL
                                                                    370 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,092 mL
                                                                    690 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.39/28/77/18/-6
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
she has crackles throughout
   Abdominal: Soft, Bowel sounds present, tender in upper quadrants
   bilaterally
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: Unable to stand
   Skin:  Not assessed, No(t) Rash: Small ecchymosis on right wrist
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed, Withdrawn
patient answers person and place but year as
   [**2037**] and not able to be re-directed.  She has normal following of
   commands and will move unilateral LE on command.  No unilateral
   differences.
   Labs / Radiology
   8.4 g/dL
   108 K/uL
   84 mg/dL
   1.7 mg/dL
   18 mEq/L
   3.7 mEq/L
   33 mg/dL
   113 mEq/L
   141 mEq/L
   25.4 %
   50.9 K/uL
        [image002.jpg]
                             [**2108-6-17**]  06:16 PM
                             [**2108-6-17**]  09:54 PM
                             [**2108-6-17**]  10:12 PM
                             [**2108-6-18**]  05:30 AM
                             [**2108-6-18**]  07:48 AM
                             [**2108-6-18**]  03:15 PM
                             [**2108-6-19**]  03:46 AM
                             [**2108-6-19**]  04:37 PM
                             [**2108-6-20**]  12:51 AM
                             [**2108-6-20**]  04:06 AM
   WBC
   56.5
   63.2
   55.5
   75.3
   63.4
   50.9
   Hct
   28.6
   28.0
   26.6
   26.6
   24.9
   25.4
   Plt
   257
   218
   155
   144
   126
   108
   Cr
   1.5
   1.8
   2.0
   2.2
   2.0
   1.7
   TropT
   0.06
   TCO2
   15
   13
   12
   18
   Glucose
   159
   119
   62
   118
   72
   84
   Other labs: PT / PTT / INR:16.7/33.4/1.5, CK / CKMB /
   Troponin-T:18/3/0.06, ALT / AST:31/33, Alk Phos / T Bili:89/0.3,
   Differential-Neuts:99.0 %, Band:1.0 %, Lymph:0.0 %, Mono:0.0 %, Eos:0.0
   %, D-dimer:6577 ng/mL, Fibrinogen:691 mg/dL, Lactic Acid:1.9 mmol/L,
   Albumin:2.1 g/dL, LDH:384 IU/L, Ca++:6.9 mg/dL, Mg++:1.9 mg/dL, PO4:2.6
   mg/dL
   Fluid analysis / Other labs: ABG-7.39/28/77--2 lpm
   Imaging: CXR--Increased bilateral effusion
   Assessment and Plan
   77 yo female admit with sepsis and urinary source identified now with
   concerning findings of worsening mental status and persistent acidosis
   with hypoxemia.  Her markedly elevated WBC count has started to
   decrease and review of smear by hematology suggests leukemoid
   reaction.
   Sepsis
improving with antibiotics and E. Coli identified on culture
   -Zosyn to continue
   -Flagyl to go to po with concern for C. Diff
   -Reasonable to D/C A-line
   Altered mental status-Her exam is consistent with encephalopathy which
   is dynamic consitent with delirium.
   -Minimize sedating medications
   -Rx underlying infection
   -Head CT for focal findings
   -Likely to improve as underlying issues resolve.
   Hypoxemia
Pulmonary infiltrate
she has
 crackles on exam
   throughout all lung fields which raises the question of atelectasis-the
   effusions do raise the question of some component of volume overload.
   -Maintain negative fluid balance is possible
   -Wean O2 as possible
   -OOB
Chair
   -Will need incentive spirometry down the line as patient is able
   Leukocytosis
Improving, likely reaction to infection and expect trend
   to improved status as infection clears
   Thrombocytopenia
patient with decrease over 3 days to 100.  This
   represents a 50% decrease in count and in this time course it raises
   HIT as possibility.  The argument for alternative causes is sepsis,
   medications perhaps most likely.
   -Repeat this pm
   -Change PPI
   -Consider HIT and Rx based on trend today.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2108-6-17**] 12:01 PM
   20 Gauge - [**2108-6-17**] 12:03 PM
   Arterial Line - [**2108-6-18**] 08:10 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45

2108-06-21 06:38:00 Physician Resident Progress Note
Chief Complaint:  urosepsis, delerium
   24 Hour Events:
   [**2108-6-20**] noncontrast CT head: (prelim) Normal scan
   [**2108-6-19**] MRI abdomen:  no hydronephrosis or renal obstruction; evidence
   of hemosiderosis with secondary iron deposition in the liver, spleen,
   and extensive anasarca.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2108-6-18**] 08:00 PM
   Metronidazole - [**2108-6-20**] 01:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2108-6-21**] 12:23 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2108-6-20**] 10:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-6-21**] 06:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.9
C (98.4
   HR: 103 (97 - 108) bpm
   BP: 144/74(102) {114/54(77) - 144/74(102)} mmHg
   RR: 20 (11 - 25) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 64.5 kg (admission): 63 kg
   Height: 61 Inch
    CVP: 9 (6 - 14)mmHg
   Total In:
                                                                  1,515 mL
                                                                    386 mL
   PO:
                                                                    100 mL
                                                                    220 mL
   TF:
   IVF:
                                                                  1,415 mL
                                                                    166 mL
   Blood products:
   Total out:
                                                                  3,385 mL
                                                                    940 mL
   Urine:
                                                                  3,385 mL
                                                                    940 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,870 mL
                                                                   -554 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///23/
   Physical Examination
   Gen: awake, alert, oriented to person and place, not time, confusion
   persists
   CV: tachycardic, regular rhythm, no M/R/G
   Lungs: difficult to assess d/t poor cooperation, crackles at bases and
   lateral lung bilaterally
   Abd: +bs, soft, ntnd
   Ext: warm, dry, no LE edema, 2+ distal pulses
   Labs / Radiology
   124 K/uL
   9.6 g/dL
   81 mg/dL
   1.3 mg/dL
   23 mEq/L
   4.1 mEq/L
   29 mg/dL
   111 mEq/L
   142 mEq/L
   28.3 %
   32.5 K/uL
        [image002.jpg]
                             [**2108-6-17**]  10:12 PM
                             [**2108-6-18**]  05:30 AM
                             [**2108-6-18**]  07:48 AM
                             [**2108-6-18**]  03:15 PM
                             [**2108-6-19**]  03:46 AM
                             [**2108-6-19**]  04:37 PM
                             [**2108-6-20**]  12:51 AM
                             [**2108-6-20**]  04:06 AM
                             [**2108-6-20**]  04:49 PM
                             [**2108-6-21**]  04:34 AM
   WBC
   63.2
   55.5
   75.3
   63.4
   50.9
   41.6
   32.5
   Hct
   28.0
   26.6
   26.6
   24.9
   25.4
   27.7
   28.3
   Plt
   [**Telephone/Fax (3) 3631**]26
   108
   125
   124
   Cr
   1.8
   2.0
   2.2
   2.0
   1.7
   1.5
   1.3
   TropT
   0.06
   TCO2
   13
   12
   18
   Glucose
   119
   62
   118
   72
   84
   69
   81
   Other labs: PT / PTT / INR:16.4/30.1/1.5, CK / CKMB /
   Troponin-T:18/3/0.06, ALT / AST:21/19, Alk Phos / T Bili:153/0.6,
   Differential-Neuts:99.0 %, Band:1.0 %, Lymph:0.0 %, Mono:0.0 %, Eos:0.0
   %, D-dimer:6577 ng/mL, Fibrinogen:632 mg/dL, Lactic Acid:1.9 mmol/L,
   Albumin:2.3 g/dL, LDH:298 IU/L, Ca++:7.3 mg/dL, Mg++:1.7 mg/dL, PO4:2.9
   mg/dL
   Imaging:
   [**2108-6-19**] MRI abdomen: no hydronephrosis or renal obstruction; evidence
   of hemosiderosis with secondary iron deposition in the liver, spleen,
   and extensive anasarca.
   [**2108-6-20**]: concontrast head CT: (prelim) normal
   [**2108-6-20**]: CXR:  moderate R and large L pleural effusions have increased
   as well as adjacent bibasilar atelectases (worse on L).  Worsening
   mild-to-moderate interstitial pulmonary edema.
   [**2108-6-20**] Urine Cx: pending
   [**2108-6-19**] Blood Cx: pending
   [**2108-6-17**] Blood CX: ESBL E. coli
   [**2108-6-19**] C. diff toxin: neg x 2
   Assessment and Plan
   77 y/o F w/ Waldenstrom's macroglobulinemia, recent partially-treated
   UTI a/w with septic shock in the setting of E. Coli bacteremia, overall
   clinically improved but with persistent delirium.
   #Septic shock
 Clinically no longer in shock, HD stable off pressors
   with improved UOP, renal function; [**1-7**] E.Coli bacteremia, presumed
   urinary source b/c +U/A.
   -meropenem switched to zosyn based on initial sensitivity data (day
   [**4-18**] of ABX);  will need PICC line
   -may d/c A-line and central line as MAP and CVP have remained at goal
   -adequate response to [**Last Name (un) 45**]-stim test; no indication for addition of
   stress-dose steroids
   .
   #Thrombocytopenia
 No S/Sx bleeding; plts have continued to trend
   downward since admission; suspect medication-induced (PPI vs. ABX); did
   receive SQH initially, is in the range for non-Ab mediated HIT; sepsis
   likely playing a role; unlikely in acute DIC as fibrinogen high and
   other markers of coagulopathy stable
   -platelets are now increasing (108
124); will monitor daily
   -d/c PPI
   -venodynes for DVT PPx
   .
   #Delirium
Somnolence and lethargy improved, confusion persists,
   non-focal physical exam without meningismus; suspect toxic
   encephalopathy in the setting of infection and benzos given for
   sedation for MRI; hypoxia on ABG c/w volume overload/bilat pleural
   effusions on CXR, cannot r/o underlying PNA but no fever, cough
   -NCCT head: normal
   -broaden ABX to cover MRSA if has incr. O2 requirement, purulent
   sputum; sputum GS/Cx if possible
   -continue gentle diuresis to improve resp. status
   .
   #Leukocytosis
 Trending down, likely leukemoid rxn in the setting of
   sepsis as latest diff was 99% PMN's, no atypicals; serum viscosity WNL
   -heme thought smear was c/w leukemoid rxn
   -cont. to trend, no further w/u (i.e. marrow Bx) at this time
   .
   #ARF
 Cr improved 2.0 --> 1.3, UOP gradually improving; suspect
   resolving ATN in the setting of sepsis/hypotension although FENa
   indeterminate and no mention of muddy brown casts; hematuria initially
   c/f papillary necrosis vs. malignancy vs. GN, proteinuria c/w nephrotic
   syndrome; rare eos in urine c/w AIN perhaps [**1-7**] quinolone given for UTI
   at OSH; unclear relationship to [**Name (NI) **]
   - encourage po intake
   -MR did not reveal hydronephrosis, renal abscess, or perinephric
   collection
   -UPEP pending
   -appreciate renal recs
   -renally dose meds, avoid nephrotoxins
   .
   #Non-gap met acidosis - Concomitant resp alkalosis based on ABG;
   suspect renal HCO3 losses (NH4 excretion vs. failure of secretion) > GI
   losses as not having freq. diarrhea, as well as some element of
   dilution after aggressive volume repletion and perhaps post-hypocapnic
   effect; consimproved with bicarb replacement in maintenance IVF
   -check urine AG, ph, FeHCO3 to characterize RTA: K has been low c/w
   type II RTA and some causes type I
   .
   #Anemia
 stable, trended down in the setting of volume repletion; no
   s/sx acute bleeding
   -T&C, x-fuse for Hct < 21%
   .
   #C. diff
 infrequent loose BM
s, abd exam benign; toxin assay neg x 2
   -d/c flagyl
   .
   #F/E/N
   -start PO diet;
   -volume goal: even to -500 cc/day
   -follow lytes [**Hospital1 **], replete PRN with caution given diminished renal fxn
   #PPx
 venodynes, does not need GI PPx clinically improved and will
   have nutrition today
   #ACCESS  - R IJ, PIV, L rad A-line; consider d/c
ing a-line/central
   line since HD stable off pressors
   #CODE
 FULL
   #CONTACT
 granddaughter [**Name (NI) 2685**] (HCP) [**Telephone/Fax (1) 3601**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2108-6-17**] 12:01 PM
   Arterial Line - [**2108-6-18**] 08:10 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2108-06-21 10:42:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   CT Head--no abnormality
   MS [**First Name (Titles) 3046**] [**Last Name (Titles) 1379**]
   Patient with negative fluid balance for 1800cc
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2108-6-18**] 08:00 PM
   Metronidazole - [**2108-6-20**] 01:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2108-6-21**] 08:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: Tachycardia
   Psychiatric / Sleep: IMproved alertness
   Flowsheet Data as of  [**2108-6-21**] 10:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.4
C (97.5
   HR: 102 (97 - 108) bpm
   BP: 157/78(109) {114/54(77) - 157/78(109)} mmHg
   RR: 17 (11 - 25) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 97.2 kg (admission): 63 kg
   Height: 61 Inch
   CVP: 9 (6 - 14)mmHg
   Total In:
                                                                  1,515 mL
                                                                    815 mL
   PO:
                                                                    100 mL
                                                                    510 mL
   TF:
   IVF:
                                                                  1,415 mL
                                                                    305 mL
   Blood products:
   Total out:
                                                                  3,385 mL
                                                                  1,210 mL
   Urine:
                                                                  3,385 mL
                                                                  1,210 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,870 mL
                                                                   -395 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///23/
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Crackles : bases, Diminished: )
   Abdominal: Soft, Obese
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): Place, needs redirection, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   9.6 g/dL
   124 K/uL
   81 mg/dL
   1.3 mg/dL
   23 mEq/L
   4.1 mEq/L
   29 mg/dL
   111 mEq/L
   142 mEq/L
   28.3 %
   32.5 K/uL
        [image002.jpg]
                             [**2108-6-17**]  10:12 PM
                             [**2108-6-18**]  05:30 AM
                             [**2108-6-18**]  07:48 AM
                             [**2108-6-18**]  03:15 PM
                             [**2108-6-19**]  03:46 AM
                             [**2108-6-19**]  04:37 PM
                             [**2108-6-20**]  12:51 AM
                             [**2108-6-20**]  04:06 AM
                             [**2108-6-20**]  04:49 PM
                             [**2108-6-21**]  04:34 AM
   WBC
   63.2
   55.5
   75.3
   63.4
   50.9
   41.6
   32.5
   Hct
   28.0
   26.6
   26.6
   24.9
   25.4
   27.7
   28.3
   Plt
   [**Telephone/Fax (3) 3631**]26
   108
   125
   124
   Cr
   1.8
   2.0
   2.2
   2.0
   1.7
   1.5
   1.3
   TropT
   0.06
   TCO2
   13
   12
   18
   Glucose
   119
   62
   118
   72
   84
   69
   81
   Other labs: PT / PTT / INR:16.4/30.1/1.5, CK / CKMB /
   Troponin-T:18/3/0.06, ALT / AST:21/19, Alk Phos / T Bili:153/0.6,
   Differential-Neuts:99.0 %, Band:1.0 %, Lymph:0.0 %, Mono:0.0 %, Eos:0.0
   %, D-dimer:6577 ng/mL, Fibrinogen:632 mg/dL, Lactic Acid:1.9 mmol/L,
   Albumin:2.3 g/dL, LDH:298 IU/L, Ca++:7.3 mg/dL, Mg++:1.7 mg/dL, PO4:2.9
   mg/dL
   Imaging: CXR-resolved right sided effusion and improving left sided
   pulmonary congestion.
   Assessment and Plan
   77 yo admit with urosepsis which has shown substantial improvement and
   now has trend down in WBC count and good tolerance of diuresis and
   improving mental status overall.  Her CXR would endorse improved volume
   status overall.
   Sepsis-
   -Zosyn x 14 days
   -Continue to promote diuresis
   -Appears to be stabilitzed
   Acute Renal Failure-
   Creatinine improving substantially
   Remarable improvement in uring flow
   Will need follow up evaluation of hematuria based on long term
   course
this may well be related to infection and papillary necrosis
   Altered Mental Status-
   Clearing with improvement in all other parameters
   Continue to orient
   Start with mobilization and ambulation
   Thrombocytopenia
Stabilized at 125 without intervention, medications
   minimized, no concern for HIT
   ICU
Will move to PICC placement and D/C all other lines
   gg
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2108-6-17**] 12:01 PM
   Arterial Line - [**2108-6-18**] 08:10 PM
   Prophylaxis:
   DVT: Boots
OOB to chair
   Stress ulcer: PO Diet
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35